US06136823
Synthesis of 1-(5-Amino-2-fluorophenyl)-8-chloro-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2-fluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (100 mg) was added to a mixed liquid of a 40% aqueous solution (103 mg) of methylamine and pyridine (1 ml), and the mixture was stirred at room temperature for 2 hours. The solvent was distilled off under reduced pressure, and ethanol was added to the residue. Solids formed were collected by filtration and washed with hexane to obtain the title compound (85 mg) as a pale yellow powder.

reactant | 1-(5-Amino-2-fluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC=1C=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F | C16H8ClF3N2O3
reactant | methylamine | CN | CH5N
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2-fluorophenyl)-8-chloro-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 85 mg | NC=1C=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NC)F)=O)C(=O)O)F | C17H12ClF2N3O3
